US06340759B1
(318-3) 1-(4-Ethylpiperidin-1-yl)-3-(4-methoxyphenyl)isoquinoline hydrochloride
1-Chloro-3-(4-methoxyphenyl)isoquinoline (405 mg) and 4-ethylpiperidine (168 mg) were dissolved in N,N-dimethylformamide (5 ml), followed by the addition of triethylamine (251 ml), and the mixture was stirred at 80° C. overnight. The reaction mixture was partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system). Then the resulting product was converted into a hydrochloride in a conventional manner, and then recrystallized from ethanol/isopropyl ether, to give the hydrochloride of the title compound as a colorless crystals (87 mg, yield; 13%).

reactant | 1-Chloro-3-(4-methoxyphenyl)isoquinoline | 405 mg | ClC1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | 4-ethylpiperidine | 168 mg | C(C)C1CCNCC1 | C7H15N
reactant | triethylamine | 251 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(4-Ethylpiperidin-1-yl)-3-(4-methoxyphenyl)isoquinoline hydrochloride | 87 mg, yield; 13% | Cl.C(C)C1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | InChI=1S/C23H26N2O.ClH/c1-3-17-12-14-25(15-13-17)23-21-7-5-4-6-19(21)16-22(24-23)18-8-10-20(26-2)11-9-18;/h4-11,16-17H,3,12-15H2,1-2H3;1H
